US07777047B2
N-[2-(benzylthio)-3-thiomorpholinopropyl]-5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid (330 mg), 2-(benzylthio)-3-thiomorpholinopropan-1-amine (200 mg), 1H-1,2,3-benzotriazol-1-ol (120 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (180 mg) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (1:1-1:2, volume ratio) to give the title compound (380 mg, yield 78%) as a pale-yellow amorphous solid.

reactant | 5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | 330 mg | COCCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)O | C19H21N3O6S
reactant | 2-(benzylthio)-3-thiomorpholinopropan-1-amine | 200 mg | C(C1=CC=CC=C1)SC(CN)CN1CCSCC1 | C14H22N2S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 120 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 180 mg | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[2-(benzylthio)-3-thiomorpholinopropyl]-5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 380 mg, yield 78% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)CN1CCSCC1 | C33H41N5O5S3
